US09101616B2
Step-4: Methyl 4-bromomethyl-1-tert-butoxycarbonylindole-2-carboxylate
A solution of methyl 1-tert-butoxycarbonyl-4-methylindole-2-carboxylate (0.13 g, 0.48 mmol), NBS (0.087 g, 0.48 mmol), and AIBN (4 mg, 0.024 mmol) in carbon tetrachloride (1.9 mL) was heated to reflux for 3 h. The reaction mixture was cooled to room temperature and filtered and washed with carbon tetrachloride. The filtrate was evaporated to give a yellow oil that was purified by silica gel chromatography (EtOAc:hexane=8:92) to give 0.12 g (72% yield) of the title compound as a pale yellow solid:

reactant | methyl 1-tert-butoxycarbonyl-4-methylindole-2-carboxylate | 0.48 mmol, 0.13 g | C(C)(C)(C)OC(=O)N1C(=CC2=C(C=CC=C12)C)C(=O)OC | C16H19NO4
reactant | NBS | 0.48 mmol, 0.087 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 1.9 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 0.024 mmol, 4 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | Methyl 4-bromomethyl-1-tert-butoxycarbonylindole-2-carboxylate | 0.12 g, 72% yield | BrCC1=C2C=C(N(C2=CC=C1)C(=O)OC(C)(C)C)C(=O)OC | C16H18BrNO4
